US04293557
3-[3-[1-(1-Pyrrolidinyl)ethyl]phenoxy]propylamine and bromopropionic acid were reacted in the same way as in Example 6 to afford N-[3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propyl]bromopropionamide.

reactant | 3-[3-[1-(1-Pyrrolidinyl)ethyl]phenoxy]propylamine | N1(CCCC1)C(C)C=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | bromopropionic acid | BrC(C(=O)O)C | C3H5BrO2
product | N-[3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propyl]bromopropionamide | N1(CCCC1)C(C)C=1C=C(OCCCNC(C(C)Br)=O)C=CC1 | C18H27BrN2O2
